US04221796
D. 6-(Methylthio)imidazo[1,2-a]pyridine-2-carbamic acid, methyl ester
A suspension of 2-amino-5-(methylthio)pyridine (0.667 mol) and methyl(chloroacetyl)carbamate (0.667 mol) in 325 ml of HMPT is heated at 100° C. for 5 hours. After dilution with 2000 ml of H2O, the product is collected by filtration, successively washed with H2O, MeOH and CH2Cl2, and dried.

reactant | 2-amino-5-(methylthio)pyridine | 0.667 mol | NC1=NC=C(C=C1)SC | C6H8N2S
reactant | methyl(chloroacetyl)carbamate | 0.667 mol | COC(NC(CCl)=O)=O | C4H6ClNO3
solvent | HMPT | 325 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 6-(Methylthio)imidazo[1,2-a]pyridine-2-carbamic acid, methyl ester | CSC=1C=CC=2N(C1)C=C(N2)NC(=O)OC | C10H11N3O2S
